US09212182B2
A 25-mL pressure vessel was charged with (E)-ethyl 3-(5-(benzylthio)-2-((3-(3-fluorophenyl)cyclopentyl)amino)phenyl)acrylate (800 mg, 1.682 mmol), methanol (8.4 ml), and a solution of sodium methoxide in methanol (0.5 M, 3.4 mL, 1.682 mmol). The reaction. vessel was sealed with a Teflon cap and the yellow reaction mixture was warmed to 100° C. After 36 h, additional solution of sodium methoxide in methanol (0.5 M, 3.4 mL, 1.682 mmol) was added and the reaction vessel was sealed and warmed to 100° C. After 12 h, the reaction mixture was allowed to cool to ambient temperature and concentrated under reduced pressure to furnish a yellow residue, which was purified by flash column chromatography (50-g Biotage column, eluent: gradient, 20 to 30% EtOAc in heptane) to afford 6-(benzylthio)-1-(3-(3-fluorophenyl)cyclopentyl)quinolin-2(1H)-one (170 mg, 0.396 mmol, 23.53% yield). m/z (ESI) 430.1 (M+H)+.

reactant | (E)-ethyl 3-(5-(benzylthio)-2-((3-(3-fluorophenyl)cyclopentyl)amino)phenyl)acrylate | 1.682 mmol, 800 mg | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1CC(CC1)C1=CC(=CC=C1)F | C29H30FNO2S
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 8.4 ml | CO | CH4O
solvent | methanol | 1.682 mmol, 0.5 M, 3.4 mL | CO | CH4O
solvent | methanol | 1.682 mmol, 0.5 M, 3.4 mL | CO | CH4O
product | 6-(benzylthio)-1-(3-(3-fluorophenyl)cyclopentyl)quinolin-2(1H)-one | 0.396 mmol, 170 mg, 23.53% yield | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1CC(CC1)C1=CC(=CC=C1)F)=O | C27H24FNOS
